US09334271B2
f) 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-8-pyridin-2-yl-9H-purine
2,6-Bis-((R)-3-methyl-morpholin-4-yl)-8-pyridin-2-yl-9-(tetrahydro-pyran-2-yl)-9H-purine (33 mg, 69 μmol) was dissolved in 3 mL of THF. 2N aqueous HCl (344 μl, 688 μmol) was added, and the reaction was stirred for 2 hours at room temperature. 100 mg of Na2CO3 and 10 mL of CH2Cl2 were added, and the reaction mixture was stirred for 20 minutes. The organic layer was separated, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography (12 g SiO2, heptane/EtOAc in a gradient from 100/0 to 3/2) to give the product as a solid (24 mg, 88%).

reactant | 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-8-pyridin-2-yl-9-(tetrahydro-pyran-2-yl)-9H-purine | 69 μmol, 33 mg | C[C@H]1N(CCOC1)C1=NC(=C2N=C(N(C2=N1)C1OCCCC1)C1=NC=CC=C1)N1[C@@H](COCC1)C | C25H33N7O3
reactant | HCl | 688 μmol, 2N, 344 μl | Cl | ClH
reactant | Na2CO3 | 100 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-8-pyridin-2-yl-9H-purine | 24 mg, 88% | C[C@H]1N(CCOC1)C1=NC(=C2N=C(NC2=N1)C1=NC=CC=C1)N1[C@@H](COCC1)C | C20H25N7O2
